US05837673
1-{5'-[3"-(t-Butyldimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-ol (4.98 g) is dissolved in chloroform (140 ml), and thereto is added active manganese dioxide (36 g), and the mixture is heated with stirring for six hours. The insoluble materials are removed by filtration, and the filtrate is concentrated, and the residue is purified by silica gel column chromatography to give 1-{5'-[3"-(t-butyidimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-one (2.87 g).

reactant | 1-{5'-[3"-(t-Butyldimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-ol | 4.98 g | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=CC(=C(C1)C(C=C)O)[N+](=O)[O-] | C18H29NO5Si
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 36 g | [O-2].[O-2].[Mn+4]
product | 1-{5'-[3"-(t-butyidimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-one | 2.87 g, Yield: 58% | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=CC(=C(C1)C(C=C)=O)[N+](=O)[O-] | C18H27NO5Si
